US05466687
1-(4-Chlorobenzoyl)-4-(4-cyanobenzylidene)piperidine
1-(4-chlorobenzoyl)-4-(2-methoxy-4-methoxycarbonylbenzylidene)piperidine from diethyl 2-methoxy-4-methoxycarbonylbenzylphosphonate and N-(4-chlorobenzoyl)-4-piperidone. Colorless oil.

reactant | 1-(4-chlorobenzoyl)-4-(2-methoxy-4-methoxycarbonylbenzylidene)piperidine | ClC1=CC=C(C(=O)N2CCC(CC2)=CC2=C(C=C(C=C2)C(=O)OC)OC)C=C1 | C22H22ClNO4
reactant | diethyl 2-methoxy-4-methoxycarbonylbenzylphosphonate | COC1=C(CP(OCC)(OCC)=O)C=CC(=C1)C(=O)OC | C14H21O6P
reactant | N-(4-chlorobenzoyl)-4-piperidone | ClC1=CC=C(C(=O)N2CCC(CC2)=O)C=C1 | C12H12ClNO2
product | 1-(4-Chlorobenzoyl)-4-(4-cyanobenzylidene)piperidine | ClC1=CC=C(C(=O)N2CCC(CC2)=CC2=CC=C(C=C2)C#N)C=C1 | C20H17ClN2O
